US07067657B2
N-(2-Amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-yl)-1-hydroxymethyl-cyclopentylamine
Prepared according to the procedure in Example 1, from 5-phenylmethylthio-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamine and cycloleucinol.

reactant | 5-phenylmethylthio-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamine | C1(=CC=CC=C1)CSC=1N=C(C2=C(N1)N=C(S2)N)Cl | C12H9ClN4S2
reactant | cycloleucinol | NC1(CCCC1)CO | C6H13NO
product | N-(2-Amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-yl)-1-hydroxymethyl-cyclopentylamine | NC=1SC2=C(N=C(N=C2NC2(CCCC2)CO)SCC2=CC=CC=C2)N1 | C18H21N5OS2
